Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
epigastric pain
 
Major Surgical or Invasive Procedure:
___:  ___ aspiration of abdominal collection 

 
History of Present Illness:
___ year old female with 2 days of abd pain localizing to the 
RLQ. nausea
but no vomiting. no diarrhea. seen at osh and had a ct scan
that showed appendicitis with an abscess. given zosyn.
transferred here for eval.

 
Past Medical History:
Afib on Eliquis, arthritis, HLD 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAMINATION:  ___:  upon admission
 
Temp: 99.2 HR: 94 BP: 109/57 Resp: 16 O(2)Sat: 98 Normal
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Tenderness to palpation in the right lower
quadrant
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluent
Psych: Normal mood

Discharge Physical Exam:
97.5
PO 158 / 80
R Sitting 81 18 98 Ra 
 
Pertinent Results:
___ 04:29AM BLOOD WBC-7.4 RBC-3.73* Hgb-10.5* Hct-34.1 
MCV-91 MCH-28.2 MCHC-30.8* RDW-14.7 RDWSD-49.6* Plt ___
___ 06:20AM BLOOD WBC-7.4 RBC-3.42* Hgb-9.8* Hct-31.0* 
MCV-91 MCH-28.7 MCHC-31.6* RDW-14.6 RDWSD-48.5* Plt ___
___ 01:40AM BLOOD WBC-11.0* RBC-3.79* Hgb-10.9* Hct-34.1 
MCV-90 MCH-28.8 MCHC-32.0 RDW-14.8 RDWSD-49.1* Plt ___
___ 01:40AM BLOOD Neuts-75.1* Lymphs-11.9* Monos-10.5 
Eos-1.1 Baso-0.8 Im ___ AbsNeut-8.24* AbsLymp-1.30 
AbsMono-1.15* AbsEos-0.12 AbsBaso-0.09*
___ 04:29AM BLOOD Plt ___
___ 05:45AM BLOOD ___ PTT-32.8 ___
___ 04:29AM BLOOD Glucose-112* UreaN-10 Creat-0.8 Na-139 
K-4.3 Cl-101 HCO3-27 AnGap-11
___ 01:40AM BLOOD Glucose-134* UreaN-12 Creat-0.9 Na-137 
K-4.3 Cl-103 HCO3-19* AnGap-15
___ 04:29AM BLOOD Calcium-9.0 Phos-3.8 Mg-1.9
___ 01:51AM BLOOD Lactate-1.4

___:  interventional ___:

1. Successful CT-guided aspiration of 4 cc mucinous fluid and 
debris of the ___ collection. 
2. Due to the nature of the aspirate, samples were sent for both 
pathology and microbiology and no drain was placed. 

 
Brief Hospital Course:
___ year old female who was admitted to the hospital with right 
lower quadrant pain and nausea.  Upon admission, the patient was 
made NPO, given intravenous fluids, and underwent imaging.  A 
cat scan of the abdomen was done which showed appendicitis with 
an abscess.  The patient was started on a course of zosyn.  She 
underwent serial abdominal examinations and her white blood cell 
count was monitored. 

The patient was taken to interventional radiology where she 
underwent aspiration of 4cc of mucinous material from  
___ collection.  A drain was not left in place.  
After the procedure, the patient resumed a regular diet.  Her 
vital signs were stable and she was afebrile.  Her white blood 
cell count normalized.  She was discharged home on HD #3 on a 2 
week course of ciprofloxacin and flagyl.  Discharge instructions 
were reviewed and questions answered.  A follow-up appointment 
was made in the acute care clinic.  

 
Medications on Admission:
: Eliquis 5mg BID, Simvastatin 20mg daily, Amytriptyline 50mg 
daily, diltiazem 120mg daily, digoxin 125mcg daily, metoprolol 
75mg daily 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Ciprofloxacin HCl 500 mg PO/NG Q12H 
last dose:  ___  
3.  Digoxin 0.125 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID  
5.  MetroNIDAZOLE 500 mg PO TID 
last dose ___  
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
7.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
8.  Metoprolol Succinate XL 75 mg PO DAILY  
9.  Apixaban 5 mg PO BID  
10.  Diltiazem Extended-Release 120 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
perforated appendix

abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with epigastric pain and 
diarrhea.  You underwent a cat scan of the abdomen which showed 
a perforated appendix and formation of an abscess.  You were 
taken to interventional radiology where the fluid collection was 
aspirated. You were started on a course of antibiotics.  Your 
abdominal pain has decreased in severity and you have resumed a 
regular diet.  Your vital signs have been stable and your white 
blood cell count has normalized.  You are being discharged on a 
2 week course of antibiotics.  Discharge instructions include:  

 Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

* Increase in abdominal pain

* Please call the clinic at (___) if you are unable to 
complete your course of antiobiotics or if you have questions.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

 
Followup Instructions:
___